US06043269
(+,-) cis Methanesulfonic acid 4-(7-hydroxy-3-phenyl-chroman-4-yl)-phenyl ester
In dry glassware and under a nitrogen atmosphere, (+,-) cis Methanesulfonic acid 4-(7-methoxy-3-phenyl-chroman-4-yl)-phenyl ester (5.0 g, 12.2 mmol) was dissolved in dry methylene chloride (150 ml), and cooled to -78° C. A solution of 1M boron tribromide in methylene chloride was added dropwise with stirring at such a rate that the temperature did not exceed -70° C. The reaction mixture was stirred at -78° C. for 60 min, and for 60 min. after the cooling was removed. A 5% sodium bicarbonate solution (100 ml) was slowly added, and the mixture extracted with ethyl acetate (300+2×25 ml). The combined organic extracts were washed with water and brine, dried (magnesium sulphate) and evaporated.

reactant | (+,-) cis Methanesulfonic acid 4-(7-methoxy-3-phenyl-chroman-4-yl)-phenyl ester | 12.2 mmol, 5.0 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)C | C23H22O5S
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | (+,-) cis Methanesulfonic acid 4-(7-hydroxy-3-phenyl-chroman-4-yl)-phenyl ester | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)C | C22H20O5S
